Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: chest pain  

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ male with self-reported history of cirrhosis
secondary to alcohol use, who presents with chest pain. Patient
reports years of hemoptysis, however no significant increases
over the last ___ days. He is unable to characterize how much,
but describes it bright red blood.  He coughs up only blood.
Tonight, patient developed intermittent sharp episodes of chest
pain, worse with exertion, that feel like lightning, ___ in
severity, which is associated with shortness of breath. He 
denies
leg swelling, recent travels or surgeries, history of blood
clots, fevers, chills, nausea, vomiting, belly pain, urinary or
bowel symptoms. Patient endorses drinking half a gallon of
alcohol a day.  He reports having a negative PPD less than a 
year
ago.  Patient has had seizures in the past, no delirium tremens.

In the ED, initial vitals were 97.8 66 120/76 18 99% RA.  Exam
showed regular rate and rhythm no murmurs rubs or gallops, lungs 

clear to auscultation bilaterally, abdomen soft nontender
nondistended.  Labs showed hemoglobin 13.5, lipase 87, troponin 
<
0.01 x 2.  ECG showed normal sinus rhythm, normal axis, normal
intervals, isolated ST elevation in V3.  CTA showed no evidence
of pulmonary embolism or acute aortic abnormality, bibasilar
atelectasis without focal consolidation.  Patient received
diazepam 10 mg x 5, thiamine 100 mg and folic acid 1 mg, as well
as 1 liter LR.  CXR showed bibasilar atelectasis.

Currently, the patient still endorses chest pain wrapping across
chest, moreso right-sided.  He endorses no fevers or chills.

Review of systems:  
10 pt ROS negative other than noted 

 
Past Medical History:
Cirrhosis
Hepatitis C, untreated
Hypertension
 
Social History:
___
Family History:
Father with colon cancer
Mother with lung cancer

 
Physical Exam:
GEN: Alert, oriented to name, place and situation.  comfortable, 
no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops. 
Chest pain worse with palpation.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema 
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.  Mildly tremulous.

 
Pertinent Results:
___ 02:05AM BLOOD WBC-8.6 RBC-4.11* Hgb-13.5* Hct-39.8* 
MCV-97 MCH-32.8* MCHC-33.9 RDW-13.9 RDWSD-49.2* Plt ___
___ 04:57PM BLOOD WBC-6.7 RBC-4.52* Hgb-14.7 Hct-42.1 
MCV-93 MCH-32.5* MCHC-34.9 RDW-13.4 RDWSD-46.3 Plt ___
___ 07:28AM BLOOD WBC-5.2 RBC-4.67 Hgb-15.1 Hct-43.6 MCV-93 
MCH-32.3* MCHC-34.6 RDW-13.3 RDWSD-45.6 Plt ___
___ 07:05AM BLOOD WBC-5.8 RBC-4.56* Hgb-14.7 Hct-42.8 
MCV-94 MCH-32.2* MCHC-34.3 RDW-13.2 RDWSD-45.4 Plt ___
___ 02:05AM BLOOD Glucose-77 UreaN-14 Creat-0.8 Na-140 
K-3.7 Cl-98 HCO3-23 AnGap-19*
___ 07:28AM BLOOD Glucose-83 UreaN-16 Creat-0.7 Na-136 
K-4.1 Cl-94* HCO3-26 AnGap-16
___ 07:05AM BLOOD Glucose-111* UreaN-19 Creat-0.8 Na-140 
K-4.2 Cl-99 HCO3-26 AnGap-15
___ 02:05AM BLOOD ALT-7 AST-31 AlkPhos-39* TotBili-0.2
___ 02:05AM BLOOD cTropnT-<0.01 proBNP-51
___ 06:05AM BLOOD cTropnT-<0.01
___ 04:57PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-9.8 Phos-5.2* Mg-2.0

CTA Chest 
IMPRESSION:  
  
No evidence of pulmonary embolism or acute aortic abnormality.  
Bibasilar 
atelectasis without focal consolidation. Mild bronchial wall 
thickening. 

ECHO 
Mild symmetric left ventricular hypertrophy with normal cavity 
size and borderline systolic
function. Normal right ventricular size and systolic function. 
Mild diastolic dysfunction

STRESS 
IMPRESSION: Atypical symptoms in the absence of ischemic EKG 
changes. 
Poor functional capacity. Blunted hemodynamic response. 

 
Brief Hospital Course:
___  year old male with history of alcohol use disorder
complicated by cirrhosis presenting with chest pain and
hemoptysis who left AMA on hospital day 2.  

# Chest pain
# Dyspnea
Presented with chest pain without clear cause. CTA negative for 
PE and CXR with only atelectasis. He had serial troponins which 
were negative x3. His BNP was not elevated. His EKG did not have 
any signs of ischemia. He did endorse that it
is much worse with activity. He went for stress which he stopped 
two minutes in due to his symptoms. despite him reporting 
symptoms his stress EKGs were negaitvve
for changes. He had an ECHO which showed mild LVH and diastolic 
dysfunction. It seems likely this chest pain was musculoskeletal 
given in was reproducible on exam.  

# Hemoptysis:  Patient reports hemoptysis for past few months.
Last episode was three days ago. Unable to report how much
volume.  Unlikely malignancy as CTA was negative. No witnessed
hemoptysis while in the hospital. Given his poor follow up 
offered inpatient
bronch and pulm consult which he refused. He should follow with 
a pulmonologist. 

# Alcohol withdrawal/abuse
patient demanded valium during his entire hospitalization. He 
left AMA to drink on hospital day two. We discussed the risks 
and benefits. He stated he knew how to get help if he needed it. 


# Cirrhosis
# Hepatitis C: has not received care for either.  Will need an
EGD at some point to examine for varices. Offered EGD while in 
the hospital which he refused. Does not appear to be 
encephalopathic at this time. 

#Smoking 
he doesn't want to quit. Counseled on the importance of 
quitting.
Will offer nicotine patch
 
>30 minutes spent on complex discharge 
 
Medications on Admission:
None 
 
Discharge Medications:
Left AMA 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Alcohol Withdrawal 
#Chest Pain 
#Hematemesis 
#Hemoptysis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital for chest pain. You had a stress 
test, CT scan, blood work all negative for any cause. 

You were treated for alcohol withdrawal. You left against 
medical advice. We encourage you to find a primary care doctor 
as soon as possible and to work closely with them to stop 
drinking. As we discussed the alcohol is harming your body.

You have been endorsing spitting up blood you should have an 
endoscopy by a gastroenterologist to figure out why. 

We wish you the best, 
Your ___ Team 
 
Followup Instructions:
___